Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with a history of TIA in ___ 
with
no residual symptoms, non-Hodgkin's lymphoma, hypertension,
hyperlipidemia, and unspecified B-cell lymphoma, who presents as
a transfer from ___ for evaluation of recurrent 
episodes
of slurred speech.  History is obtained from the patient as well
as ___ records.

___ was in his usual state of health until ___
when ___ had an episode of slurred speech while playing golf. 
This lasted approximately 5 minutes, after which ___ returned to
baseline.  ___ states that ___ was able to find most, but not all,
the words ___ wanted to say.  However, his speech was very 
slurred
and his friends were unable to understand him.  There was no
headache, vision changes, focal weakness or numbness associated
with this.  ___ did not seek medical attention at this time.

___ had another episode of slurred speech on ___ at 
home,
after which ___ presented to ___.  Documentation from ___
states that this episode lasted for about 20 minutes, but the
patient states that it lasted for 5.  Again, there was no
associated vision changes, headache, focal numbness or weakness. 

___ states ___ was able to think of the words ___ wants to say. 
Head CT at ___ showed no acute intracranial abnormality.  
___
also had a CTA of the head and neck, which showed a 1 mm segment
of high-grade stenosis of the distal left M1.  ___ had an MRI,
which showed no acute infarction.  This did show a tiny focus of
old subarachnoid hemorrhage in the left hemisphere versus
prominent cortical veins.  No calcification or focal aneurysm 
was
identified.  ___ was evaluated by neurology, who felt this was
likely due to a TIA or less likely a migraine with aura.  ___ did
note that ___ has a remote history of headaches during childhood
and adolescence.  His aspirin was increased to 162 mg daily.  ___
was monitored on telemetry at ___ with no A. fib captured.

Today, at around 12:20 ___, ___ was ambulating in the hallway and
stopped at the nursing station to try to talk to the nurses.  
___
RN noted that the patient was having "garbled" speech.  ___ was
put back in bed, and a code stroke was activated.  His glucose
was 128.  His systolic blood pressure was 193/77.  Repeat head 
CT
showed no acute intracranial abnormality.  Tele-stroke was
obtained, his ___ stroke scale was 1, no TPA was given.  It was
recommended that ___ be put on Plavix 75 mg daily.  Shortly
thereafter, while still being evaluated as part of the code
stroke, ___ had another episode of slurred speech as well as
right-sided facial droop, which lasted less than 1 minute.  ___
was already awaiting transfer to ___ at this time.

At the time of transfer, ___ was noted to have a mild right-sided
facial droop, no slurred speech, intact mental status, and full
strength throughout.  Blood pressure on transfer was 162/79.

Upon arrival to ___, ___ confirms the history as above.  ___ is
in no acute distress.  Regarding his history of a TIA in ___, 
___
states that ___ developed right arm and leg weakness, and then it
lasted for somewhere between 1 and 3 days although ___ is unsure
of this.  This occurred in ___.  ___ believes ___ was put on 
a
blood thinner for some number of months but is unsure of the 
name
___.  ___ has not had any recurrent symptoms since then.

 
Past Medical History:
TIA in ___
Non-Hodgkin's lymphoma
Hypertension
Nephrolithiasis
BPH
Hyperlipidemia
Bronchiectasis
Unspecified B-cell lymphoma
Squamous cell carcinoma of the skin

 
Social History:
___
Family History:
Grandmother had diabetes
Brother died of MI in his ___

 
Physical Exam:
ADMISSION EXAMINATION

Vitals:  T: Afebrile BP: 146/68  HR: 68 RR: 20 SaO2: 100% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema
Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. No apraxia. No
evidence of hemineglect. No left-right confusion. Able to follow
both midline and appendicular commands.
- Cranial Nerves: PERRL 4->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. R sided facial droop. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.
- Motor:  Normal bulk and tone. R pronator drift. No tremor or
asterixis. Finger taps are slightly slow and dysrhythmic
bilaterally.
  [___]
L   5     5    4+    5    5   4+  5    5     5   5    5    5
R   5-    5    4+   5     5   4+  5    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1 
Plantar response flexor bilaterally
- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.
- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.
- Gait: deferred given bedrest

DISCHARGE EXAMINATION

 Vitals: T: 98.0 BP: 115/62 [104-186/45-119] HR: 60 [55-95] RR:
17 SpO2: 96% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented x 3. Language is fluent with
intact comprehension. No dysarthria. Able to follow both midline 
and
appendicular commands. 

-Cranial Nerves: PERRL. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Subtle R 
NLFF.
Hearing intact to conversation. Palate elevates symmetrically.
___ strength in trapezii bilaterally. Tongue protrudes in
midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements,
such as tremor, noted.
   Delt Bic Tri WrE FE IP Quad Ham TA
 L  5    ___  ___    5  5 
 R  5    ___  ___    5  5 

-Sensory: Intact to LT throughout. No extinction to DSS.

-DTRs: ___.

-Coordination: No action tremor or dysmetria on FNF bilaterally.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 06:15AM BLOOD WBC-8.8 RBC-4.67 Hgb-15.7 Hct-45.4 MCV-97 
MCH-33.6* MCHC-34.6 RDW-13.5 RDWSD-48.6* Plt ___
___ 06:15AM BLOOD Glucose-85 UreaN-13 Creat-0.8 Na-142 
K-4.0 Cl-102 HCO3-28 AnGap-12
___ 06:15AM BLOOD Calcium-8.5 Cholest-174
___ 06:15AM BLOOD Triglyc-83 HDL-76 CHOL/HD-2.3 LDLcalc-81
___ 07:30PM BLOOD %HbA1c-5.0 eAG-97
___ 07:30PM BLOOD ALT-9 AST-24 LD(LDH)-262* AlkPhos-86 
TotBili-0.8
___ 07:30PM BLOOD TSH-2.0

IMAGING

___ 8:35 ___ CHEST (PORTABLE AP) 
Hyperaeration.  Subsegmental atelectasis left lung base.

Portable TTE (Complete) Done ___ at 8:54:27 AM
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF = 65%). Tissue Doppler imaging suggests 
a normal left ventricular filling pressure (PCWP<12mmHg). The 
right ventricular free wall thickness is normal. The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The ascending aorta is mildly dilated. The number 
of aortic valve leaflets cannot be determined. The aortic valve 
leaflets are mildly thickened (?#). There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is systolic anterior motion 
of the mitral valve leaflets. Trivial mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.  
 
Brief Hospital Course:
___ man with history notable for prior TIA, 
hypertension,
hyperlipidemia, and ___ transferred from 
___ after three episodes of facial droop and 
dysarthria, after an episode five days prior. Outside hospital 
imaging negative for acute infarction or hemorrhage, but 
follow-up CT angiogram notable for left M1 stenosis that likely 
accounted for symptoms during episodes of poor cerebral 
perfusion. TTE negative for ASD/PFO. Examination during 
hospitalization remained stable at graduated levels of activity 
(initially HOB flat with IVF, subsequently HOB was liberalized) 
without further episodes; no further physical therapy needs 
identified by physical therapy team. Given symptomatic 
intracranial cerebral artery stenosis, statin therapy adjusted 
to high-intensity atorvastatin, and second antiplatelet agent 
(clopidogrel) added. Clopidogrel should be discontinued after 
one month due to concern for possible underlying cerebral 
amyloid angiopathy, suggested by suspected superficial convexal 
SAH on outside hospital MRI.

TRANSITIONAL ISSUES
1. Please continue dual antiplatelet therapy with aspirin and 
clopidogrel for one month, followed by once-daily aspirin 81mg 
therapy indefinitely.
2. Consider outpatient cardiac monitoring to assess for 
underlying paroxysmal atrial fibrillation; discussions regarding 
anticoagulation if atrial fibrillation identified should include 
the outpatient neurologist given concern for possible cerebral 
amyloid angiopathy.

 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. amLODIPine 5 mg PO DAILY 
5. silodosin 4 mg oral DAILY:PRN 
6. Flovent HFA (fluticasone) 44 mcg/actuation inhalation BID 
7. Multivitamins 1 TAB PO DAILY 
8. Pravastatin 20 mg PO QPM 
9. azelastine 0.15 % (205.5 mcg) nasal BID 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 (One) tablet(s) by mouth at bedtime 
Disp #*28 Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 (One) tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  azelastine 0.15 % (205.5 mcg) nasal BID  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Flovent HFA (fluticasone) 44 mcg/actuation inhalation BID  
8.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  silodosin 4 mg oral DAILY:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic intracranial middle cerebral artery stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ for 
evaluation of several episodes of facial droop and difficulty 
speaking. An MRI scan prior to transfer showed no signs of 
stroke, though a CT scan of your head and neck showed a blockage 
in one of the blood vessels on the left side of your brain; 
intermittently decreased blood flow through this vessel was 
likely responsible for your symptoms. During your stay, you did 
not experience further episodes, and our physical therapy team 
did not feel that you needed additional evaluation. Because of 
your narrow blood vessel, you were placed on a second 
anti-platelet medication (clopidogrel/Plavix) for a period of 
one month; your cholesterol medication (pravastatin) was also 
switched to a related medication (atorvastatin) at a higher 
dose. After one month, instead of taking both aspirin and 
Plavix, you will just need to take aspirin alone.

Please follow up with your primary care provider within one week 
of discharge, and with Neurology at the appointment listed 
below.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___